US07678369B2
Polystyrenesulfonate/Acrylamide/N-Butylacrylamide Gel (75 mole %: 11.5 mole %: 11.5 mole %: 2% Cross-Linked)
Polystyrenesulfonate (22.5 mmoles, 3.918 g), acrylamide (3.45 mmoles, 0.245 g), n-butylacrylamide (3.45 mmoles, 0.439 g) and divinylbenzene (0.6 mmoles, 85.5 microL) were dissolved in 15 mL ethanol and 5 mL water in a 40 mL vial fitted with a septa cap. The solution was degassed by bubbling nitrogen through and 1 mole % AIBN was added as a solution. The polymerization solution was further degassed and the placed in a heated reaction block at 60° C. for 18 h. A clear, light yellow gel formed.

reactant | acrylamide | 3.45 mmoles, 0.245 g | C(C=C)(=O)N | C3H5NO
reactant | n-butylacrylamide | 3.45 mmoles, 0.439 g | C(CCC)C(C(=O)N)=C | C7H13NO
reactant | divinylbenzene | 0.6 mmoles | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | water | 5 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | Acrylamide N-Butylacrylamide | C(C=C)(=O)N.C(CCC)NC(C=C)=O | InChI=1S/C7H13NO.C3H5NO/c1-3-5-6-8-7(9)4-2;1-2-3(4)5/h4H,2-3,5-6H2,1H3,(H,8,9);2H,1H2,(H2,4,5)
